US08557821B2
To a solution of 1-[4-(4-amino-thiazol-2-yl)-piperidin-1-yl]-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone (100 mg, 0.04 mmol) in dimethylacetamide (0.8 mL) is added diisopropylethylamine (8.6 μL, 0.28 mmol), followed by benzenesulfonyl chloride (8.8 mg, 0.05 mmol) at RT. After stirring 15 min at 60° C., the reaction mixture is purified directly by preparative HPLC to give N-(2-{1-[2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-piperidin-4-yl}-thiazol-4-yl)-benzenesulfonamide (Compound No. I.g.025). MS: m/z=514 (M+1).

reactant | 1-[4-(4-amino-thiazol-2-yl)-piperidin-1-yl]-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone | 0.04 mmol, 100 mg | NC=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C15H18F3N5OS
reactant | diisopropylethylamine | 0.28 mmol, 8.6 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzenesulfonyl chloride | 0.05 mmol, 8.8 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dimethylacetamide | 0.8 mL | CC(=O)N(C)C | C4H9NO
product | N-(2-{1-[2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-piperidin-4-yl}-thiazol-4-yl)-benzenesulfonamide | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)NS(=O)(=O)C1=CC=CC=C1)C(F)(F)F | C21H22F3N5O3S2
